Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Ultram
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None 

attach
 
Pertinent Results:
Admission Labs
-----------------
___ 06:03PM BLOOD WBC-5.7 RBC-4.44 Hgb-12.5 Hct-39.8 MCV-90 
MCH-28.2 MCHC-31.4* RDW-13.0 RDWSD-42.9 Plt ___
___ 06:03PM BLOOD Plt ___
___ 06:03PM BLOOD Glucose-82 UreaN-9 Creat-0.8 Na-141 K-4.4 
Cl-102 HCO3-23 AnGap-16
___ 06:03PM BLOOD ALT-15 AST-18 AlkPhos-107* TotBili-0.3
___ 06:03PM BLOOD Albumin-4.7
___ 08:15AM BLOOD TSH-5.0*
___ 08:15AM BLOOD Free T4-1.1
___ 09:20PM URINE Blood-LG* Nitrite-NEG Protein-20* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NORMAL pH-6.0 
Leuks-NEG

Discharge Labs
-----------------

___ 07:00AM BLOOD WBC-4.6 RBC-3.68* Hgb-10.5* Hct-32.7* 
MCV-89 MCH-28.5 MCHC-32.1 RDW-13.1 RDWSD-42.5 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-91 UreaN-6 Creat-0.7 Na-140 K-4.1 
Cl-106 HCO3-23 AnGap-11
___ 07:00AM BLOOD ALT-11 AST-15 AlkPhos-84 TotBili-0.2
___ 07:00AM BLOOD Albumin-3.9 Calcium-8.8 Phos-3.9 Mg-2.0
___ 04:06PM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-7.5 
Leuks-NEG

Imaging
-----------

CT PELVIS WITH CONTRAST 
IMPRESSION: 
  
  
1. No acute findings in the pelvis. 
2. Normal CT appearance of the right and left ovaries. 
3. Sigmoid colonic diverticulosis. 
  

TVUS
  
IMPRESSION:  
  
Normal uterus and right ovary.  The left ovary is not 
identified. 

 
Brief Hospital Course:
___ is a ___ year old female with a pmhx of 
___'s thyroiditis, migraines, asthma and anxiety who 
presented to the ED for evaluation of 5 days of lower 
abdominal/pelvic pain of unclear etiology with an unremarkable 
CT of the pelvis and TVUS but likely secondary to Mittelschmerz. 
We controlled her symptoms and discharged her once she was able 
to tolerate a PO diet. 

TRANSITIONAL ISSUES:
====================
[ ] She may benefit for consideration of OCP/IUD to help prevent 
painful periods which should further be discussed during future 
outpatient appointments

[ ] Please check a repeat TSH/free T4 during her next follow up 
appointment
 
ACUTE ISSUES:
=============
#Lower abdominal/pelvic pain
#Dysmenorrhea
She presented with persistent abdominal/pelvic pain with 
unremarkable workup including CT abdomen/pelvis, TVUS at ___ 
and overall normal labs upon admission here with no 
leukocytosis, normal LFT's, lipase, pregnancy test and a 
relatively normal TVUS and pelvic exam making any acute process 
unlikely. Given that her left ovary was not visualized on the 
TVUS we repeated a CT of the pelvis which showed normal 
appearance of the right and left ovaries with no acute processes 
in the pelvis. Her association of pain with mensuration is 
likely ___ Mittelschmerz vs. ruptured ovarian cyst vs. 
endometriosis/adenomysosis/fibroid uterus. We controlled her 
symptoms wand discharged her once she once she was able to 
tolerate a PO diet. 

[ ] She may benefit for consideration of OCP/IUD to help prevent 
painful periods which should further be discussed during future 
outpatient appointments. 

CHRONIC ISSUES:
===============
#Hashimito's Thyroiditis 
Her TSH/T4 was checked with a TSH value of 5.0 and a free T4 of 
1.1. She did report not taking her thyroid medications during 
the days preceding her hospitalization due to her nausea. 
Continued home levothyroxine 
[ ] Please check a repeat TSH/free T4 during her next follow up 
appointment

#Aniety 
She reports taking Benadryl at home for anxiety attacks. She 
required no Benadryl during her stay here. We also started her 
on Ramelteon to help with insomnia while in the hospital. 

#Migraines
She reports a history of very infrequent migraines and takes OTC 
migraine medictions when experiencing one. She reported no 
migraines during her stay here. 

CORE MEASURES
=============
#CODE: Full code, presumed. 
#CONTACT: ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. SUMAtriptan succinate 50 mg oral DAILY:PRN 
3. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN SOB 
4. DiphenhydrAMINE 12.5 mg PO DAILY:PRN Anxiety 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO BID PRN Pain - Mild/Fever 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 1 
tablet(s) by mouth BID PRN Disp #*30 Tablet Refills:*0 
2.  Ibuprofen 400 mg PO BID PRN  Pain - Mild 
RX *ibuprofen [IBU] 400 mg 1 tablet(s) by mouth BID PRN Disp 
#*60 Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
Duration: 7 Days 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ondansetron 4 mg 1 tablet(s) by mouth Q8H PRN Disp #*21 
Tablet Refills:*0 
4.  DiphenhydrAMINE 12.5 mg PO DAILY:PRN Anxiety  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN SOB  
7.  SUMAtriptan succinate 50 mg oral DAILY:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary  
---------- 
Intractable Abdominal Pain  
 
 
Secondary  
---------- 
Anxiety  
Migraines 
___'s Thyroiditis  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted to the hospital because you had severe 
abdominal pain and were not eating or drinking secondary to the 
pain. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- While you were in the hospital we ran a number of lab and 
imaging tests which did not explain the cause of your abdominal 
pain. We also gave you medications to help control your pain and 
nausea and made sure you were able to tolerate a diet.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___